US04657911
3-methylamino quinuclidine (IV)
To a solution of 73.7 g of 3-benzylamino quinuclidine in water (≃300 to 400 ml) are added, while cooling to 5° C., 51 ml of a 40% aqueous formaldehyde solution. Then after the addition, the mixture is left for 30 minutes at 5° C., then 32 g of sodium cyanoborohydride are added within 1 to 2 hours. Then it is left at room temperature for 12 hours, extracted with ethyl acetate, the mixture obtained is dried on sodium (or magnesium) sulfate, filtered, the filtrate is evaporated and the residue is distilled (Boiling point [0.04 mm/Hg]=125° C.). Thus the expected product is obtained practically quantitatively.

reactant | 3-benzylamino quinuclidine | 73.7 g | C(C1=CC=CC=C1)NC1CN2CCC1CC2 | C14H20N2
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 32 g | C(#N)[BH3-].[Na+]
solvent | water | 300 to 400 ml | O | H2O
product | 3-methylamino quinuclidine | CNC1CN2CCC1CC2 | C8H16N2
